US07365078B2
Synthesis of [4-(2-bromo-4 isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylidene]-methyl-amine hydrochloride (compound 1-010)
To a suspension of [4-(2-bromo-4-isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylidene]-methyl-amine (135 mg) in a mixture of ethyl acetate (1.5 mL) and ethanol (0.2 mL) was added 4M HCl/ethyl acetate (0.25 mL) and concentrated under reduced pressure. The residue was solidified from Et2O to provide the title compound as an amorphous (73 mg).

reactant | [4-(2-bromo-4-isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylidene]-methyl-amine | 135 mg | BrC1=C(C=CC(=C1)C(C)C)C=1C=C2C(N(C3=CC(=NC1N23)C)C(CCC)CCC)=NC | C26H33BrN4
reactant | HCl ethyl acetate | 4M, 0.25 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 0.2 mL | C(C)O | C2H6O
product | [4-(2-bromo-4 isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylidene]-methyl-amine hydrochloride | Cl.BrC1=C(C=CC(=C1)C(C)C)C=1C=C2C(N(C3=CC(=NC1N23)C)C(CCC)CCC)=NC | InChI=1S/C26H33BrN4.ClH/c1-7-9-19(10-8-2)30-24-13-17(5)29-25-21(15-23(31(24)25)26(30)28-6)20-12-11-18(16(3)4)14-22(20)27;/h11-16,19H,7-10H2,1-6H3;1H
